US08431695B2
Preparation of 4-[4-amino-5-(2-benzyl-1,3-benzothiazol-5-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]-N-ethylpiperidine-1-carboxamide
In a manner similar to the procedure described for the preparation of Example 331 and using 5-(2-benzyl-1,3-benzothiazol-5-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine and ethylisocyanate as starting material, 7 mg (12%) of the desired product was isolated.

reactant | 5-(2-benzyl-1,3-benzothiazol-5-yl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | C(C1=CC=CC=C1)C=1SC2=C(N1)C=C(C=C2)C=2C=C(N1N=CN=C(C12)N)C1CCNCC1 | C25H24N6S
reactant | ethylisocyanate | C(C)N=C=O | C3H5NO
product | 4-[4-amino-5-(2-benzyl-1,3-benzothiazol-5-yl)pyrrolo[2,1-f][1,2,4]triazin-7-yl]-N-ethylpiperidine-1-carboxamide | 7 mg, 12% | NC1=NC=NN2C1=C(C=C2C2CCN(CC2)C(=O)NCC)C=2C=CC1=C(N=C(S1)CC1=CC=CC=C1)C2 | C28H29N7OS
